US09382197B2
To an oven-dried 50-mL round-bottom flask was added tert-butyl 4-[(E)-{[(R)-tert-butylsulfinyl]imino}methyl]benzoate (3.00 g, 9.70 mmol) and THF (48 mL). The solution was cooled to −78° C. then isopropyllithium (55.4 mL, 38.8 mmol, 0.70 M of in pentane) was slowly added via a syringe pump over 15 min. The resulting reaction mixture was stirred at −78° C. After 1 h, EtOAc (100 mL), sat. NH4Cl solution (20 mL), and water (10 mL) were added to the flask at this temperature. After separation, the aqueous layer was extracted with EtOAc (2×60 mL). Combined organic layers were washed with brine (20 mL), dried (MgSO4), and concentrated. Purification via flash chromatography (20% EtOAc-hexanes to 50% EtOAc-hexanes) afforded major diastereomer tert-butyl 4-[(1R)-1-{[(R)-tert-butylsulfinyl]amino}-2-methylpropyl]benzoate (1.59 g, 46%) as a white solid. [c]D20=−18.9 (c=1.0, CHCl3); 1H NMR (CDCl3, 300 MHz) δ 7.96 (d, J=8.5 Hz, 2H), 7.31 (d, J=8.1 Hz, 2H), 4.18 (d, J=6.0 Hz, 1H), 3.45 (d, J=6.0 Hz, 1H), 2.22 (m, 1H), 1.58 (s, 9 μl), 1.24 (s, 9H), 0.94 (d, J=6.8 Hz, 3H), 0.80 (d, J=6.8 Hz, 3H).

reactant | tert-butyl 4-[(E)-{[(R)-tert-butylsulfinyl]imino}methyl]benzoate | 9.70 mmol, 3.00 g | C(C)(C)(C)[S@@](=O)\N=C\C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C16H23NO3S
reactant | THF | 48 mL | C1CCOC1 | C4H8O
reactant | isopropyllithium | 38.8 mmol, 0.70 M, 55.4 mL | C(C)(C)[Li]
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | water | 10 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 4-[(1R)-1-{[(R)-tert-butylsulfinyl]amino}-2-methylpropyl]benzoate | 1.59 g, 46% | C(C)(C)(C)[S@@](=O)N[C@H](C(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C19H31NO3S
